US04798897
Then, in substantially the same manner as in Example 9, 2.34 g of the thus obtained 1-(5-isoquinolinesulfonyl)-3-hydroxy-5-methylpyrrolidine was reacted in dichloromethane with 1.08 g of oxalyl chloride, 0.67 g of dimethylsulfoxide and 0.60 g of triethylamine to obtain 1-(5-isoquinolinesulfonyl)-5-methyl-3-pyrrolidone.

reactant | 1-(5-isoquinolinesulfonyl)-3-hydroxy-5-methylpyrrolidine | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CC1C)O | C14H16N2O3S
reactant | oxalyl chloride | 1.08 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.67 g | CS(=O)C | C2H6OS
reactant | triethylamine | 0.60 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(5-isoquinolinesulfonyl)-5-methyl-3-pyrrolidone | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CC1C)=O | C14H14N2O3S
